US07683185B2
(2E,4E)-5-(5-Dimethylaminobenzo[b]thiophen-2-yl)-penta-2,4-dienoic acid hydroxamide (42a).
To a solution of (2E,4E)-5-(5-dimethylaminobenzo[b]thiophen-2-yl)-penta-2,4-dienoic acid ethyl ester (540 mg, 1.8 mmol) in dry THF (10 mL) was added at 0° C. an aqueous solution of hydroxylamine (50%, 1.1 mL, 16.6 mmol). To this mixture was added a solution of potassium hydroxide in methanol (2.9 mL, 1M, 2.9 mmol) over a period of 40 minutes at 0° C. The mixture was stirred at 20° C. for 2 hours, and water (10 mL) was then added. The solution was acidified to pH 5 by addition of concentrated hydrochloric acid (10 M, CAUTION), then extracted with ethyl acetate (50 mL). The organic layer was washed with brine (25 mL), dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give a solid which was recrystallised from ethanol to give the title compound (367 mg, 71%) as an orange solid, mp 195° C. (decomp.).

reactant | (2E,4E)-5-(5-dimethylaminobenzo[b]thiophen-2-yl)-penta-2,4-dienoic acid ethyl ester | 1.8 mmol, 540 mg | C(C)OC(\C=C\C=C\C1=CC2=C(S1)C=CC(=C2)N(C)C)=O | C17H19NO2S
reactant | hydroxylamine | 16.6 mmol, 1.1 mL | NO | H3NO
reactant | potassium hydroxide | [OH-].[K+]
reactant | methanol | 2.9 mmol, 1M, 2.9 mL | CO | CH4O
reactant | hydrochloric acid | 10 M | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | (2E,4E)-5-(5-Dimethylaminobenzo[b]thiophen-2-yl)-penta-2,4-dienoic acid | 367 mg, 71% | CN(C1=CC2=C(SC(=C2)/C=C/C=C/C(=O)O)C=C1)C | C15H15NO2S
